US03978229
(1) Ethyl 6-(2-tetrahydropyranyloxy)hexanoate
66 g. (0.412 mol) of ethyl 6-hydroxyhexanoate [prepared as described by S. R. Sandler and W. Karo, in `Organic Functional Group Preparation` , Academic Press, New York, and London, vol. 1, page 262. (cf. G. B. Hatch and H. Adkins, J. Am. Chem. Soc., 59 1694 (1937))] were dissolved in 400 ml. of methylene chloride, and the mixture was reacted with 45 g. of dihydropyran and 1 g. of p-toluenesulphonic acid at 25°C. for 20 minutes. The reaction mixture was washed with an aqueous sodium bicarbonate solution, dried and concentrated. The residue was distilled in vacuo to obtain 77 g. of the title compound having the following physical characteristics:

reactant | ethyl 6-hydroxyhexanoate | 0.412 mol | OCCCCCC(=O)OCC | C8H16O3
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 6-(2-tetrahydropyranyloxy)hexanoate | O1C(CCCC1)OCCCCCC(=O)OCC | C13H24O4
